US06294668B1
(E)-(6R,7R)-3-(1-Cyclopropylmethyl-2-oxo-pyrrolidin-3-ylidenemethyl)-8-oxo-7-(2-pyridin-4-ylsulfanyl-acetylamino)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid
With 111.0 mg (0.68 mmol) 1,1′-carbonyldiimidazole, 116.0 mg (0.68 mmol) (pyridin-4-ylsulfanyl)-acetic acid and 200.0 mg (0.57 mmol) ) (E)-(6R,7R)-7-amino-3-(1-cyclopropylmethyl-2-oxo-pyrrolidin-3-ylidenemethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid in 4 ml N,N-dimethylformamide.

reactant | 1,1′-carbonyldiimidazole | 0.68 mmol, 111.0 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (pyridin-4-ylsulfanyl)-acetic acid | 0.68 mmol, 116.0 mg | N1=CC=C(C=C1)SCC(=O)O | C7H7NO2S
reactant | (E)-(6R,7R)-7-amino-3-(1-cyclopropylmethyl-2-oxo-pyrrolidin-3-ylidenemethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)/C=C\1/C(N(CC1)CC1CC1)=O | C16H19N3O4S
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | (E)-(6R,7R)-3-(1-Cyclopropylmethyl-2-oxo-pyrrolidin-3-ylidenemethyl)-8-oxo-7-(2-pyridin-4-ylsulfanyl-acetylamino)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid | C1(CC1)CN1C(\C(\CC1)=C\C1=C(N2C([C@H]([C@H]2SC1)NC(CSC1=CC=NC=C1)=O)=O)C(=O)O)=O | C23H24N4O5S2
